US07875645B2
2-(2-Ethyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-ethylphenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): light yellow powder; MS (ISP): 189.4 ((M+H)+.).

reactant | (2-ethylphenyl)-acetonitrile | C(C)C1=C(C=CC=C1)CC#N | C10H11N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Ethyl-benzyl)-4,5-dihydro-1H-imidazole | C(C)C1=C(CC=2NCCN2)C=CC=C1 | C12H16N2
